US05480873
N-Benzyloxy-9,10-dihydro-4,5-dimethoxy-9,10-dioxo-N-methyl-anthracene-2-carboxamide
To a stirred solution of 9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene-2-carboxylic acid (2.00 g) in tetrahydrofuran (900 ml) at room temperature under nitrogen was added N-methyl morpholine (1.36 g) dropwise. The solution was then cooled to -15° C. and a solution of isobutylchloroformate (0.92 g) in tetrahydrofuran (5 ml) added during 5 minutes. The clear solution became cloudy. The mixture was stirred at -15° C. for 1 hour. To this was added portionwise over 5 minutes N-methyl O-benzylhydroxylamine hydrobromide (1.50 g). The cloudy mixture was stirred at -15° C. for 3 hours and then allowed to warm to room temperature. After 16 hours at room temperature, the mixture was filtered and the filtrate concentrated in vacuo. The resulting yellow solid was taken up in ethyl acetate (800 ml) and filtered to remove insolubles. The solution was washed with 10% aqueous sodium carbonate solution (three times), water (twice), dried (MgSO4), filtered and evaporated to yield the title compound as a bright yellow powder, m.p. 170°-171° C.

reactant | 9,10-dihydro-4,5-dimethoxy-9,10-dioxoanthracene-2-carboxylic acid | 2.00 g | COC1=CC(=CC=2C(C3=CC=CC(=C3C(C12)=O)OC)=O)C(=O)O | C17H12O6
reactant | N-methyl morpholine | 1.36 g | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.92 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | N-methyl O-benzylhydroxylamine hydrobromide | 1.50 g | Br.CNOCC1=CC=CC=C1
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-Benzyloxy-9,10-dihydro-4,5-dimethoxy-9,10-dioxo-N-methyl-anthracene-2-carboxamide | C(C1=CC=CC=C1)ON(C(=O)C1=CC=2C(C3=CC=CC(=C3C(C2C(=C1)OC)=O)OC)=O)C | C25H21NO6
